* E:\Git\Group Project\EEE3-Instrumentation\Simulations\Buffer\More Complicated Buffer\buffer.asc
XU1 N002 N006 N002 opamp Aol=100K GBW=10Meg
V1 N006 0 SINE(0 1 1Meg)
V2 V+ 0 18
V3 0 V- 18
D3 NC_01 NC_02 1N4148
R1 N005 0 100
R3 N003 N005 10k
R4 N003 N004 8
I3 0 0 PULSE(0 100m 0 5u 1 1 1 1)
C1 NC_03 N002 1µ
C2 NC_04 N002 1µ
M1 V+ NC_05 N001 N001 IRF530
M2 N001 NC_06 V- V- IRF7343P
M3 N004 N005 0 0 IRF7343P
I1 V+ N003 PULSE(0 100m 0 5u 1 1 1 1)
.model D D
.lib C:\Users\harry\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\harry\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 10u 0 1u
.model D D(Ron=1m Roff=10Meg Vfwd=17.3 Vrev=100)
.lib opamp.sub
.backanno
.end
